Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
agitation
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with a history of schizophrenia, Alzheimer's is brought in 
by EMS for attempting to attack her visiting nurse with ___ knife. 
Upon evaluation by psychiatry in the ER, she was found to be 
wheezing and hypoxic, and was thus admitted to medicine for 
clearance prior to transfer to ___ unit.

The history is obtained with the help of her son, ___, and 
daughter in law, ___. The patient lives by herself in an 
elderly community and has nurses and home aides to help her with 
all of her ADLs. On the day of admission, an aide was helping 
her with her meds and she threatened her with a knife. The 
patient has not been wanting to take her medications as she has 
been concerned that they are causing her medical problems. 

The patient evidently endorsed CP during her ER stay and this 
prompted EKG evaluation, which revealed a new RBBB since last 
EKG in ___. She had two negative troponins subsequently. She 
then developed wheezing with O2 sats 89-90% after receiving 
duonebs. For her apparent COPD flare, she was admitted to 
medicine. After her medical clearance, per psychiatry, she will 
be admitted to inpatient psychiatry geriatric unit. She is under 
a ___. They recommended risperdal 0.5mg PO BID. She 
received her home medications, risperdal 1mg once. She had a 
negative urine and serum tox screen, UA, CBC, CXR. Her chemistry 
was normal except for Cr 2.2 from baseline of 1.9.

On arrival to the ED, initial vitals were: 97.5 74 195/63 16 
95%. Prior to transfer, vitals were: 97.4 96 141/61 25 96% Nasal 
Cannula.
  
Currently, the patient is resting comfortably in her bed. She is 
pleasant, joking and laughing. Her son reports that her PCP 
recently started her on lasix and asthma treatments due to 
weight gain and wheezing, respectively.
 
Past Medical History:
Alzheimer's Dementia,
HTN
Diastolic Dysfunction 
CKD
COPD on 3L NC oxygen
Atrial fibrillation
Schizophrenia
Recurrent UTI's 
PUD 

 
Social History:
___
Family History:
does not know much about parents' and grandparents' health. 2 
children with schizophrenia.

 
Physical Exam:
ADMISSION EXAM
VS -98.3 141/75 98 24 95% 3L  
General: NAD
HEENT: no scleral icterus, OP clear. 
Neck: supple, no cervical ___. No carotid bruits.
CV:  RRR, nl S1 S2, no r/m/g appreciated.
Lungs: diffuse wheezing. no crackles.
Abdomen: soft, ND, suprapubic tenderness. No organomegaly. +BS.
GU: no Foley.
Ext: WWP, +2 pulses. No pedal edema.
Neuro: Alert, not oriented, attentive. Memory intermittently 
intact. CN II-XII intact. Motor and sensory function grossly 
intact

DISCHARGE EXAM
VS -98.4 127/58 80 18 96% 2L NC
General: NAD. Alert. 
HEENT: no scleral icterus, OP clear. 
Neck: supple, no cervical ___. No carotid bruits.
CV:  RRR, nl S1 S2, no r/m/g appreciated.
Lungs: diffuse wheezing. Right-sided rales.
Abdomen: soft, ND. No organomegaly. +BS.
GU: no Foley.
Ext: WWP, +2 pulses. No pedal edema.
Neuro: Alert, not oriented, attentive. Memory intermittently 
intact. CN II-XII intact. Motor and sensory function grossly 
intact.
Skin: no rashes.

 
Pertinent Results:
ADMISSION LABS
___ 05:20PM BLOOD WBC-10.6 RBC-4.00* Hgb-12.5 Hct-39.4 
MCV-99* MCH-31.2 MCHC-31.6 RDW-12.9 Plt ___
___ 05:20PM BLOOD Neuts-60.1 ___ Monos-7.7 Eos-8.3* 
Baso-0.9
___ 05:20PM BLOOD Glucose-101* UreaN-31* Creat-2.3* Na-141 
K-4.4 Cl-104 HCO3-25 AnGap-16

PERTINENT LABS AND STUDIES
___ 05:20PM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
___ 07:22AM BLOOD cTropnT-<0.01
___ 01:15PM BLOOD cTropnT-<0.01
___ 05:00PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 05:00PM URINE RBC-0 WBC-1 Bacteri-NONE Yeast-NONE Epi-1

___ CXR: No acute cardiopulmonary process.

DISCHARGE LABS
___ 07:10AM BLOOD WBC-8.2 RBC-3.84* Hgb-11.6* Hct-37.0 
MCV-96 MCH-30.3 MCHC-31.4 RDW-12.8 Plt ___
___ 07:10AM BLOOD Glucose-110* UreaN-25* Creat-2.2* Na-141 
K-4.2 Cl-106 HCO3-24 AnGap-15
___ 07:10AM BLOOD Calcium-8.9 Phos-3.4 Mg-2.___ female with pmhx of COPD, dCHF, schizophrenia presenting 
after threatening others with incidental finding of COPD 
exacerbation.
 
ACUTE CARE
# COPD: CXR is negative. COPD exacerbation is an incidental 
finding and may have been related to reported medication 
non-compliance with nebulizers. She has recently been on 
prednisone burst with duoneb due to dyspnea at ___'s office. She 
was on prednisone 50mg from ___. However, due to concern 
for psychiatric side effects of prednisone, this medication was 
avoided. The patient's COPD regimen was not optimized at home, 
so tiotropium and inhaled steroids were initiated. The patient 
is on home 3L NC but she was actually stable and at ideal oxygen 
levels with 2L NC while in -house considering her COPD status 
makes her ideal level in the range of 90-93%. She was given a 
z-pack, ___.
  
# Acute on CKD: last checked ___ and was 1.9, currently 2.2 
at discharge. This can be trended as an outpatient. Encourage PO 
hydration. This may represent a new baseline as Cr was between 
___ during her entire hospitalization. This only represents a 
change in GFR from 25 to 20.

# Schizophrenia/Aggression: not on home medications; per 
psychiatry, she was started on Risperidone 0.5mg BID in the ER. 
She was placed on ___ with a sitter while she was 
in-house. However, upon re-evaluation, the patient was calm, 
pleasant and without signs of psychiatric illness. Thus, she was 
released from ___, sitter and was not recommended 
psychiatric inpatient stay. She should follow up with outpatient 
___ phone number provided and a message 
was left with the clinic to phone the patient's son for intake.

CHRONIC CARE
# dCHF: no pulmonary edema seen on CXR so likely not in acute 
CHF. She was continued on her home regimen of lasix, lisinopril, 
aspirin, metoprolol, propafenone, low sodium diet.

# GERD: continue ranitidine

# Dementia: per the patient's family, the patient's baseline 
mental status is to be oriented only to self and to have very 
limited short-term memory.

TRANSITIONS IN CARE
#CODE STATUS: DNR/DNI confirmed.  
#CONTACT: Son ___ ___
#PENDING AT TIME OF DISCHARGE: none
#ISSUES TO DISCUSS AT FOLLOW UP:
- management of COPD
- management of schizophrenia (follow up in psychiatric clinic)
- trend creatinine.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Erythromycin 0.5% Ophth Oint 0.5 in BOTH EYES BID 
2. Furosemide 20 mg PO DAILY 
3. ipratropium-albuterol 0.5 mg-3 mg(2.5 mg base)/3 mL 
inhalation TID 
4. Lisinopril 30 mg PO DAILY 
5. Metoprolol Succinate XL 12.5 mg PO DAILY 
6. Propafenone HCl 150 mg PO BID 
7. Ranitidine 150 mg PO BID 
8. triamcinolone acetonide 0.5 % topical TID: PRN itchy skin 
9. Aspirin 81 mg PO DAILY 
10. Docusate Sodium 100 mg PO Q6H 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Docusate Sodium 100 mg PO Q6H 
3. Erythromycin 0.5% Ophth Oint 0.5 in BOTH EYES BID 
4. Furosemide 20 mg PO DAILY 
5. Lisinopril 30 mg PO DAILY 
6. Metoprolol Succinate XL 12.5 mg PO DAILY 
7. Propafenone HCl 150 mg PO BID 
8. Ranitidine 150 mg PO BID 
9. triamcinolone acetonide 0.5 % topical TID: PRN itchy skin 
10. Tiotropium Bromide 1 CAP IH DAILY 
RX *tiotropium bromide [Spiriva with HandiHaler] 18 mcg 1 cap 
inh daily Disp #*30 Capsule Refills:*0
11. Guaifenesin ___ mL PO Q6H:PRN cough 
RX *guaifenesin 100 mg/5 mL ___ mL by mouth every 6 hours Disp 
#*1 Bottle Refills:*0
12. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
RX *fluticasone-salmeterol [Advair Diskus] 250 mcg-50 mcg/Dose 1 
ih inh twice a day Disp #*30 Unit Refills:*0
13. Albuterol 0.083% Neb Soln 1 NEB IH Q6H 
RX *albuterol sulfate 2.5 mg/3 mL (0.083 %) 1 neb inh every 6 
hours Disp #*30 Unit Refills:*0
14. Azithromycin 250 mg PO Q24H Duration: 3 Doses 
___ 
RX *azithromycin 250 mg 1 tablet(s) by mouth daily Disp #*1 
Tablet Refills:*0
15. RISperidone 0.5 mg PO BID 
RX *risperidone [Risperdal] 0.5 mg 1 tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*0
16. rolling walker
diagnosis: gait instability
prognosis: good
length of need: lifetime

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
primary diagnosis:
schizophrenia
chronic obstructive pulmonary disease

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,
You were admitted to ___ for COPD exacerbation and clearance 
prior to transfer to a geriatric psychiatric unit. You improved 
quickly with resumption of your medications, and we also started 
you on some medications to help you with long term management of 
COPD. We wish you all the best.
 
Followup Instructions:
___